US05175157
2-[2-(N-(3-(Pyrid-4-yl)-propyl)-piperid-2-yl)-ethyl]-5,6-dimethyl-1,3-dihydro-isoindole
Prepared from 2-[2-(N-(3-(pyrid-4-yl)-propyl)-piperid-2-yl)-ethyl]-5,6-dimethyl-1-oxo-1,3-dihydro-isoindole and lithium aluminium hydride in tetrahydrofuran/ether analogously to Example 3.

reactant | 2-[2-(N-(3-(pyrid-4-yl)-propyl)-piperid-2-yl)-ethyl]-5,6-dimethyl-1-oxo-1,3-dihydro-isoindole | N1=CC=C(C=C1)CCCN1C(CCCC1)CCN1C(C2=CC(=C(C=C2C1)C)C)=O | C25H33N3O
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran ether | O1CCCC1.CCOCC
product | 2-[2-(N-(3-(Pyrid-4-yl)-propyl)-piperid-2-yl)-ethyl]-5,6-dimethyl-1,3-dihydro-isoindole | N1=CC=C(C=C1)CCCN1C(CCCC1)CCN1CC2=CC(=C(C=C2C1)C)C | C25H35N3
